US05463063
To a stirred solution of 4-fluorophenyglycine (3.38 g, 20.0 mmol) and sodium carbonate in 450 mL of 2:1 water:acetonitrile is added N-carbethoxyphthalimide (4.38 g, 20 mmol). After 1 hour, the reaction mixture is partially concentrated to remove the acetonitrile. The resulting slurry is filtered and the pH of the stirred filtrate is adjusted to 1-2 with 4 N hydrochloric acid and then stirred for an additional 30 minutes and filtered. The solid is air-dried and then dried in vacuo (60° C., <1 mm) to afford 4.55 g (76%) of 2-phthalimido-2-(4-fluorophenyl)acetic acid as a white powder: mp 180°-183° C.; 1H NMR (dmso-d6, 250 MHz) δ 8.10-7.80 (m, 4 H), 7.65-7.45 (m, 4 H), 7.3-7.10 (t, 2 H), 6.10 (s, 1 H); 13C NMR (dmso-d6, 250 MHz) δ168.9, 166.9, 163.6, 159.7, 135.0, 131.4, 131.3 (m), 130.9, 123.5, 115.0, 114.7, 54.4. Anal. Calculated for C16H10NO4F. Theoretical: C, 64.22; H, 3.37; N, 4.68. Found: C, 64.13; H, 3.33; N, 4.63.

reactant | 4-fluorophenyglycine | 20.0 mmol, 3.38 g | FC1=CC=C(C=C1)NCC(=O)O | C8H8FNO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetonitrile | C(C)#N | C2H3N
reactant | N-carbethoxyphthalimide | 20 mmol, 4.38 g | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
solvent | water | 450 mL | O | H2O
product | 2-phthalimido-2-(4-fluorophenyl)acetic acid | 4.55 g, 76% | C1(C=2C(C(N1C(C(=O)O)C1=CC=C(C=C1)F)=O)=CC=CC2)=O | C16H10FNO4
